US05889134
Under N2 and at -78° C., n-BuLi (23.8 mL, 2.5M in hexanes) was added, over 30 min, to a solution of 1,4-dihexyloxy-2,5-dibromobenzene (25.92 g., 59.45 mmol) in THF (150 mL). After the addition, the reaction mixture was stirred at -78° C. for 1 h and was then quenched with aq. NH4Cl at -78° C. After the usual workup, 1,4-dihexyloxy-2-bromobenzene was obtained as a pale yellow liquid (97% yield).

reactant | n-BuLi | 2.5M, 23.8 mL | [Li]CCCC
reactant | 1,4-dihexyloxy-2,5-dibromobenzene | 59.45 mmol, 25.92 g | C(CCCCC)OC1=C(C=C(C(=C1)Br)OCCCCCC)Br | C18H28Br2O2
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 1,4-dihexyloxy-2-bromobenzene | C(CCCCC)OC1=C(C=C(C=C1)OCCCCCC)Br | C18H29BrO2
